Example of string-valued parameters for XSPICE LUT

.param and="0001" or="0111"

* Simple AND gate via parameter.

.model l_and d_lut table_values=and
aand [ d1 d2 ] o_and l_and

* More usefully, strings may be passed as sub-circuit parameters

xor d1 d2 o_or pgate table=or

.subckt pgate 1 2 out table="0000"
.model poly d_lut table_values=table
ap [ 1 2 ] out poly
.ends

* Strings can be concatenated.

xboth d1 d2 d3 o_both pgate3 table=or{and}

.subckt pgate3 1 2 3 out table="00000000"
.model poly3 d_lut table_values=table
ap3 [ 1 2 3 ] out poly3
.ends

* Verify the above with a simple transient simulation.

v1 a1 0 pulse 1 0 0 1n 1n 0.5u 1u
v2 a2 0 pulse 1 0 0 1n 1n 1u 2u
v3 a3 0 pulse 1 0 0 1n 1n 2u 4u
aadc [ a1 a2 a3 ] [ d1 d2 d3 ] adc
.model adc adc_bridge in_low=0.5 in_high=0.5

.control
tran 0.1u 4.1u
plot d1 d2 d3 o_and o_or o_both digitop
.endc
.end

